US04072756
4-[4-(10,11-dihydro-5-dibenzo[a,d]-cycloheptenylidene)piperidino]-2-butanone
5.1 g of methylvinylketone are added dropwise at 70° to a solution of 10 g of 4-(10,11-dihydro-5-dibenzo[a,d]cycloheptenylidene)piperidine [M.P. 113°-114°, produced in a manner analogous to that described in Example 4 (a), from 4-(10,11-dihydro-5-dibenzo[a,d]cycloheptenylidene)-1-methylpiperidine] in 100 cc of ethanol, and the mixture is boiled at reflux for 11/2 hours. The reaction mixture is then concentrated by evaporation in a vacuum, the residue is dissolved in acetone, the solution is made acid with hydrogen chloride in ether, is again concentrated by evaporation, and the residue is crystallized first from acetone/ether and then from isopropanol/ether. The hydrochloride of the title compound has an M.P. over 300°.

reactant | methylvinylketone | 5.1 g | CC(=O)C=C | C4H6O
reactant | 4-(10,11-dihydro-5-dibenzo[a,d]cycloheptenylidene)piperidine | 10 g | C1=CC=CC=2C(C3=C(CCC21)C=CC=C3)=C3CCNCC3 | C20H21N
reactant | 4-(10,11-dihydro-5-dibenzo[a,d]cycloheptenylidene)-1-methylpiperidine | C1=CC=CC=2C(C3=C(CCC21)C=CC=C3)=C3CCN(CC3)C | C21H23N
solvent | ethanol | 100 cc | C(C)O | C2H6O
product | 4-[4-(10,11-dihydro-5-dibenzo[a,d]-cycloheptenylidene)piperidino]-2-butanone | C1=CC=CC=2C(C3=C(CCC21)C=CC=C3)=C3CCN(CC3)CCC(C)=O | C24H27NO
